US05334576
Preparation of 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-propenylnicotinic acid
A mixture of 1.5 g methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-propenylnicotinate and 3.2 mL of 2N sodium hydroxide in 15 mL methanol is stirred under nitrogen and heated at 45° for 31/2 hours. The reaction is cooled to 10°, acidified to pH 3 with 2N hydrochloric acid, and concentrated in vacuo. The residue is partitioned between methylene chloride and water, and the aqueous phase is further extracted with methylene chloride. The combined organic phases are dried and concentrated in vacuo to a solid. Recrystallization from methylene chloride-hexanes gives a solid, mp 175°-176°.

reactant | methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-propenylnicotinate | 1.5 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)C=CC)C | C17H21N3O3
reactant | sodium hydroxide | 2N, 3.2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-propenylnicotinic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)O)C=C(C=N1)C=CC)C | C16H19N3O3
